US04115416
80 Grams of p-(1-cyclooctenyl)-anisol and 175 g of pyridine-hydrochloride are thoroughly mixed and heated for 4 hours under nitrogen to 180° C. The mixture is cooled, treated with water and extracted with benzene. The benzene extracts are shaken with 3×100 ml of N-sodium hydroxide solution. The alkaline phase is acidified with 2N hydrochloric acid and extracted with ether. The ether solution is dried over sodium sulphate and evaporated. The residue is recrystallised from benzene-petroleum ether to yield the p-(1-cyclooctenyl)-phenol (m.p. 95°-97° C).

reactant | p-(1-cyclooctenyl)-anisol | C1(=CCCCCCC1)C1=CC=C(C=C1)OC | C15H20O
reactant | pyridine-hydrochloride | 175 g | Cl.N1=CC=CC=C1
solvent | water | O | H2O
product | p-(1-cyclooctenyl)-phenol | C1(=CCCCCCC1)C1=CC=C(C=C1)O | C14H18O
